US07572820B2
1-({3-[3,5-Bis(trifluoromethyl)phenyl]-1,2,4-oxadiazol-5-yl}methyl)-2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 37 using [5-cyano-2-methyl-4-(trifluoromethyl)-1H-indol-1-yl]acetic acid and N-hydroxy-3,5-bis(trifluoromethyl)benzenecarboximidamide: 1H NMR (400 MHz, CDCl3) δ 8.47 (s, 2H), 8.02 (s, 1H), 7.61 (m, 2H), 6.71 (s, 1H), 5.62 (s, 2H), 2.65 (s, 3H); MS (ES) m/z 519 (M+1).

reactant | [5-cyano-2-methyl-4-(trifluoromethyl)-1H-indol-1-yl]acetic acid | C(#N)C=1C(=C2C=C(N(C2=CC1)CC(=O)O)C)C(F)(F)F | C13H9F3N2O2
reactant | N-hydroxy-3,5-bis(trifluoromethyl)benzenecarboximidamide | ONC(=N)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C9H6F6N2O
product | 1-({3-[3,5-Bis(trifluoromethyl)phenyl]-1,2,4-oxadiazol-5-yl}methyl)-2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NOC(=N1)CN1C(=CC2=C(C(=CC=C12)C#N)C(F)(F)F)C)(F)F | C22H11F9N4O
